US05665737
(c) 2-(3-cyclopentyloxy-4-methoxybenzyl)-4-hydroxybenzoxazole
A solution of N-(2,6-dihydroxyphenyl)-3-cyclopentyloxy-4-methoxyphenylacetamide (2.10 g) and pyridinium p-toluene-sulphonate (532 mg) in xylene (100 ml) was refluxed, under nitrogen, overnight. The reaction mixture was cooled to room temperature, diluted with water (100 ml), and extracted with dichloromethane (3×75 ml). The combined organic extracts were washed with water (3×100 ml), brine (100 ml), dried (CaSO4) and evaporated in-vacuo to yield a pale brown solid. The solid was purified by flash chromatography (SiO2 ; dichloromethane;methanol (50:1)) to yield the title compound (1.027 g, 51%) as a white solid (mp 172°-181° C.). δH (250MHz;d6DMSO) 1.53-1.85 (8H,m,4×CH2), 3.70 (3H, s,OMe), 4.18 (2H,s,CH2), 4.72 (1H,m,CH), 6.69 (1H,dd,ArH), 6.82 (1H,dd,ArH), 6.89 (1H,d,ArH), 6.93 (1H,d,ArH), 7.02 (1H,dd,ArH), 7.11 (1H,t,ArH), 10.22 (1H,s,ArOH). m/z 339 (M+), 271 (M--C5H8), 256,242,228,199,149,137,123,94.

reactant | N-(2,6-dihydroxyphenyl)-3-cyclopentyloxy-4-methoxyphenylacetamide | 2.10 g | OC1=C(C(=CC=C1)O)NC(CC1=CC(=C(C=C1)OC)OC1CCCC1)=O | C20H23NO5
reactant | pyridinium p-toluene-sulphonate | 532 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 100 ml | O | H2O
product | 2-(3-cyclopentyloxy-4-methoxybenzyl)-4-hydroxybenzoxazole | 1.027 g, 51% | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C(=CC=C3)O)C=CC1OC | C20H21NO4
